US04245097
Preparation of 4-(11-Mercaptoundecylamino)benzoic acid
A solution of 10 g. of ethyl 4-[(11-bromoundecyl)amino]benzoate and 2.0 g. of thiourea in 80% of 95% ethanol is stirred under reflux for 3 hours, allowed to cool, treated with 12 ml. of 10 N aqueous sodium hydroxide solution and again stirred under reflux for 2 hours. The mixture is acidified with dilute hydrochloric acid and filtered. The solid is recrystallized from ethanol-water to yield the product as a white solid.

reactant | ethyl 4-[(11-bromoundecyl)amino]benzoate | BrCCCCCCCCCCCNC1=CC=C(C(=O)OCC)C=C1 | C20H32BrNO2
reactant | thiourea | NC(=S)N | CH4N2S
reactant | sodium hydroxide | 10 N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 4-(11-Mercaptoundecylamino)benzoic acid | SCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1 | C18H29NO2S
